US04069240
A mixture of 15.1 g. (0.10 mole) of methyl carbanilate, 105 ml. of 2-propanol, and 0.60 g. of 5% Rh on carbon was added to a 300-ml. Magne Drive (tradmark) autoclave. The vessel was sealed, purged first with nitrogen and then with hydrogen, and pressured with hydrogen to 600 psig. The autoclave was heated with agitation at 500-800 psig for 0.3 hr. at 25°-75°, followed by an additional 0.8 hr. at 75° with little or no gas absorption. The autoclave was cooled and depressurized. The reaction product was removed and filtered through Celite (trademark) filter aid to remove the catalyst. The solvent was removed in a rotary evaporator under vacuum. The white solid residue was dried in a vacuum dessicator and consisted of 15.1 g. (96% yield) of methyl cyclohexylcarbamate, m.p. 73°-74°. An authentic sample prepared from cyclohexyl isocyanate and methanol melted at 73.5°-74°.

reactant | methyl carbanilate | 0.10 mole | C(NC1=CC=CC=C1)(OC)=O | C8H9NO2
catalyst | Rh on carbon | [Rh] | Rh
solvent | 2-propanol | CC(C)O | C3H8O
product | methyl cyclohexylcarbamate | 96% yield | C1(CCCCC1)NC(OC)=O | C8H15NO2
